US09388161B2
A 100-mL round-bottom flask was charged with (S)-(6-bromo-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (0.400 g, 1.04 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.083 g, 0.10 mmol), cesium carbonate (0.985 g, 3.02 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (0.343 g, 1.17 mmol), 1,4-dioxane (10 mL) and water (3 mL). The resulting mixture stirred at 100° C. overnight and was cooled to room temperature. The reaction mixture was passed through a short pad of Celite, and the filtrate was concentrated under vacuum. The residue was purified via column chromatography on silica gel (gradient elution with 10-25% ethyl acetate/petroleum ether) to afford (S)-cyclopropyl(2-methyl-5-phenoxy-6-(1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone (0.200 g, 52%) as a light yellow solid. MS (ESI, pos. ion) m/z 374 [M+H]+.

reactant | (S)-(6-bromo-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | 1.04 mmol, 0.400 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)C1CC1)C)OC1=CC=CC=C1 | C20H20BrNO2
reactant | cesium carbonate | 3.02 mmol, 0.985 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 1.17 mmol, 0.343 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.10 mmol, 0.083 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | water | 3 mL | O | H2O
product | (S)-cyclopropyl(2-methyl-5-phenoxy-6-(1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone | 0.200 g, 52% | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NNC1)OC1=CC=CC=C1)C | C23H23N3O2
